US05192760
3-Carbethoxyamino-5-(α-bromopropionyl)-5H-dibenz[b,f]-azepine (10 g) is mixed with 15 ml of approximately 35% aqueous methylamine solution and 75 ml of ethanol and heated in a laboratory autoclave for 12 hours at 90° to 95° C. After cooling to 4° C., the formed precipitate is filtered off with suction, mixed with 50 ml of acetone and then, again filtered off with suction and dried. 3-Carbethoxyamino-5-(α-methylaminopropionyl)-5H-dibenz[b,f]azepine (7 g) is obtained, which can be purified by being dissolved in dilute hydrochloric acid and precipitated with concentrated ammonia solution. The purified compounds melts at 217° to 219° C.

reactant | 3-Carbethoxyamino-5-(α-bromopropionyl)-5H-dibenz[b,f]-azepine | 10 g | C(=O)(OCC)NC=1C=CC2=C(N(C3=C(C=C2)C=CC=C3)C(C(C)Br)=O)C1 | C20H19BrN2O3
reactant | methylamine | 15 ml | CN | CH5N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-Carbethoxyamino-5-(α-methylaminopropionyl)-5H-dibenz[b,f]azepine | 7 g | C(=O)(OCC)NC=1C=CC2=C(N(C3=C(C=C2)C=CC=C3)C(C(C)NC)=O)C1 | C21H23N3O3
